US05391817
3-Hydroxy-4-pentyloxy-benzaldehyde (0.750 g., 3.6 mmol, 1 equiv. ) is dissolved in 10 mL of methylene chloride. Diisopropyl ethyl amine (0.840 g., 6.5 mmol, 1.8 equiv. ) is then added, and the mixture is cooled to 0° C. Acetyl chloride (0.340 g., 4.32 mmol, 1.2 equiv. ) dissolved in 2 mL of methylene chloride is added slowly, and the reaction is stirred at 0° C. for 20 min., followed by stirring 30 min. at room temperature. The mixture is diluted with ether, and washed twice with water, dilute HCl, then brine. The organic phase is dried (MgSO4), and evaporated. Trituration with ether affords 3-acetoxy-4-pentyloxy-benzaldehyde (0.750 g., 3.0 mmol, 83%) as a white solid: UVmax (EtOH) 232 nm (ε=17514), 276 nm (ε=12951), 208 nm (ε=10508), 314 nm (ε=10472 ); 1H NMR (300 MHz, CDCl3) δ 9.85 (s, 1H, CHO), 7.45-7.40 (m, 2H, ArH), 6.95 (d, J=8 Hz, 1H, ArH), 4.15 (t, J=7 Hz, 2H, OCH2R), 2.03 (s, 3H, CH3CO), 1.90-1.85 (m, 2H, OCH2CH2R), 1.57-1.40 (m, 4H, pentyl), 0.95 (t, J=7 Hz, 3H, RCH3); 13C NMR (75 MHz, CDCl3) δ 191.07 (C=O), 151.31, 146.17, 130.39, 124.56, 113.99, 110.85, 69.27, 28.67, 28.04, 22.38, 13.96; IR (KBr) 2950, 1750, 1680, 1600, 1580, 1510, 1230, 1250 cm-1 ; MS (DCI) m/e 251 (MH+). Anal. Calcd for C14H18O4 : C, 67.20; H, 7.20. Found: C, 66.92; H, 7.62.

reactant | 3-Hydroxy-4-pentyloxy-benzaldehyde | 3.6 mmol, 0.750 g, 1 equiv. | OC=1C=C(C=O)C=CC1OCCCCC | C12H16O3
reactant | Diisopropyl ethyl amine | 6.5 mmol, 0.840 g, 1.8 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Acetyl chloride | 4.32 mmol, 0.340 g, 1.2 equiv. | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-acetoxy-4-pentyloxy-benzaldehyde | 3.0 mmol, 0.750 g, 83% | C(C)(=O)OC=1C=C(C=O)C=CC1OCCCCC | C14H18O4
